Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with a history of asthma, 
CAD (s/p inferior NSTEMI with stent placement in L circumflex 
and RCA in ___, HTN, HLD, PVD who presents with acute onset of 
shortness of breath this morning. She awoke at 3:30am with 
wheezing, coughing, and shortness of breath. Her and her 
daughter note that she tried to use her combivent inhaler, but 
the spray went all over and did not reach her mouth/respiratory 
tract. Her wheezing and coughing resolved, but she then awoke 
again at 6:18am with a similar episode of shortnes of breath, 
wheezing, cough productive of white sputum, and diaphoresis. She 
did not have any chest pain. EMS was then called by her 
daughter. When EMS arrived, her BP was 178/80, she appeared 
diaphoretic, and her oxygen saturatuion was in the ___ on 
facemask. She received CPAP, SL nitro, and a nebulzer treatment. 
Her BP then came down to 140/90.  
.  
On arrival to the ED, the patient was described as appearing 
more comfortable. VS were HR 57, BP 122/59, RR 15, SaO2 98% 2L. 
EKG showed sinus bradycardia (HR 55) and only non-specific ST 
changes. Troponin-T was < 0.01. BNP was elevated at ___. Other 
labs were notable for Cr of 1.3 and lactate of 1.0. CXR 
preliminary read is only significant for bibasilar atalectasis. 
UA negative and blood cultures were drawn x2. She recieved 
solumedrol 125mg, ceftriaxone 1g, azithroymcin 500mg, ___ 81mg, 
duonebs, and lasix 20mg IV x1. She received another set of 
duonebs at 11:45am after her breathing was described as "a 
little tight" with good relief. She was admitted to medicine for 
dyspnea and apparent diagnosis of new CHF vs. asthma 
exacerbation. On transfer, her vitals were HR 68 BP 136/67, RR 
17, SaO2 100% 2L.  
.  
On the floor, Ms. ___ reports that she feels much better and 
no longer feels short of breath. She denies any history of 
fevers, chills, nausea, vomiting, or diarrhea. She does not 
endorse pleuritic chest pain. She sleeps with 2 pillows at night 
and this has not changed. Her granddaughter helps her take all 
of her medications and she has been taking all of them, but she 
does not believe she is using her combivent inhaler properly. 
She has had no change in diet and denies any increased salt 
intake. She does not endorse any lower extremity edema.  
.  
Review of Systems:  
Pertinent (+) and (-) Per HPI. She has been passing small 
amounts of stool for the last few months and has had a distended 
abdomen, but has not had any abdominal pain. Patient also 
reports some right shoulder and back pain for the last three 
months.  

 
Past Medical History:
- Asthma  
- CAD, status post inferior NSTEMI with stent placement in L 
circumflex and RCA in ___ myocardial perfusion scan (___) 
- Medium size infarct involving the inferolateral wall with 
minimal ___ ischemia. Severe inferolateral hypokinesis. 
EF: 64%); (Cath ___: Patent PRCA stent, 40% mid vessel stenosis. 
Echo ___: Mild regional LV dysfunction with inferior lateral 
hypokinesis, EF 50%, ___ AR, ___  
- Hypertension  
- Peripheral vascular disease  
- Adjustment with depressed mood  
- s/p right eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
On admission:
.
VS T 97 HR 74 BP 118/56 RR 20 SaO2 99% on 1L NC
Weight 53.8 kg (118.6 pounds) (baseline is 114-115 pounds per 
record)
General - thin, weak-appearing elderly woman lying in bed with 
nasal canula.  
Eyes - EOMI, sclera anicteric
ENT - Moist, no lesions/erythema
Neck - No lymphadenopathy
CV - JVP approx. 7.  Normal s1 and s2.  No s3 or s4.  ___ 
systolic murmur heard best at RUSB and LUSB.  
Resp - Supraclavicular retractions present, but no nasal flaring 
or intercostal retractions.  Occasional expiratory wheezes 
bilaterally. Inspiratory rales at the bases bilaterally ___ up 
the bases.  Decreased breath sounds at R base.  Tympanic to 
percussion throughout posterior fields. 
Abd - Soft, mildly distended.  +BS.  Mild tenderness to 
palpation throughout abdomen.  Liver edge not palpable.  No tap 
tenderness, rebound, or guarding.
Ext - Warm, 2+ radial and DP pulses bilaterally.  No lower 
extremity edema.  
Skin - Several 2-3cm brown macules on left shift.
Neuro - CN II-XII grossly intact.  Moving all extremities.
.
On discharge:
unchanged except no wheezes and improved crackles at bases on 
lung exam.
 
Pertinent Results:
___ 08:30AM BLOOD WBC-6.5 RBC-3.93* Hgb-12.4 Hct-35.1* 
MCV-89 MCH-31.5 MCHC-35.3* RDW-13.6 Plt ___
___ 07:45AM BLOOD WBC-14.2*# RBC-4.13* Hgb-12.4 Hct-35.8* 
MCV-87 MCH-30.2 MCHC-34.8 RDW-13.4 Plt ___
___ 05:30AM BLOOD WBC-13.5* RBC-3.91* Hgb-12.4 Hct-34.7* 
MCV-89 MCH-31.7 MCHC-35.6* RDW-13.6 Plt ___
___ 08:30AM BLOOD Neuts-69.8 Lymphs-15.6* Monos-4.1 
Eos-8.1* Baso-2.4*
___ 07:45AM BLOOD Neuts-92* Bands-0 Lymphs-6* Monos-2 Eos-0 
Baso-0 ___ Myelos-0
___ 08:30AM BLOOD ___ PTT-28.2 ___
___ 08:30AM BLOOD Glucose-125* UreaN-16 Creat-1.3* Na-138 
K-4.2 Cl-103 HCO3-26 AnGap-13
___ 07:45AM BLOOD Glucose-118* UreaN-27* Creat-1.2* Na-138 
K-4.6 Cl-102 HCO3-25 AnGap-16
___ 05:30AM BLOOD Glucose-132* UreaN-24* Creat-1.1 Na-141 
K-4.4 Cl-105 HCO3-28 AnGap-12
___ 08:30AM BLOOD ___ 08:30AM BLOOD cTropnT-<0.01
___ 04:10PM BLOOD cTropnT-<0.01
___ 11:50PM BLOOD cTropnT-<0.01
___ 07:45AM BLOOD Calcium-9.1 Phos-4.2 Mg-1.8
___ 05:30AM BLOOD Calcium-9.1 Phos-3.5 Mg-2.6
___ 08:23AM BLOOD Lactate-1.0

___ BLOOD CULTURE Blood Culture, 
Routine-PENDING ___ BLOOD CULTURE Blood 
Culture, Routine-PENDING 

___ CXR: IMPRESSION: Cardiomegaly with mild bibasilar 
atelectasis.

 
Brief Hospital Course:
Presentation:
___ female with a history of asthma, CAD (s/p inferior 
NSTEMI with stent placement in L circumflex and RCA in ___, 
HTN, HLD, PVD who presents with acute onset of shortness of 
breath this morning, likely secondary to asthma exacerbation.  
.
Active Issues:
# Shortness of breath - Consistent with Asthma exacerbation; she 
may also have undiagnosed COPD which could contribute.  New 
onset CHF was considered because of pulmonary exam that 
indicates volume overload, and elevated BNP -- however, she does 
not have an elevated JVP or lower extremity edema, has been 
taking all of her cardiac medications, does not report a change 
in diet, and does not report any orthopnea or change in weight.  
CXR only showed cardiomegaly with bilateral atalectasis.  MI was 
considered given her history of CAD, but she did not endorse 
chest pain, EKG showed no changes unremarkable, and Troponin-T 
was negative x3.  
She improved quickly with nebulizers and systemic steroids with 
40mg prednisone daily for a total duration of 5 days.  We did 
not continue the antibiotics that were started in the ED because 
of our low suspician of infection.  We weaned her O2 on ___ and 
obtained ambulatory oxygen saturations. The nursing staff 
educated the patient and her family on proper inhaler use.  Pt 
was then discharged home on home inhalers and to finish course 
of steroids.  She will follow up in Pulmonary clinic for PFT's 
(which have never been done to our knowledge), disease and 
medication teaching and optimization of her home medication 
regimen. 
.  
# Leukocytosis - Ms. ___ white count was normal on 
admission, but up to 14.2 on ___.  We attriubted this to the 
initiation of steroid treatment as she was afebrile and looked 
well clinically.  
.
# CAD - She ruled out with Troponin-T negative x3 and did not 
have any telemtry events overnight on admission.  We contined 
her ___, statin, and imdur.
.
# Eosinophila - On admission, Ms. ___ was found to have a 
differential of 8.1% eosonophils.  This was most likely 
secondary to asthma, but should be rechecked as an outpatient to 
ensure resolution.
.
# History of small amounts of stool - Ms. ___ and ___ family 
endorsed that she was lately having only small amounts of stool. 
 We recommend outpatient evaluation and outpatient colonoscopy.
.
Chronic Issues:
# HTN - We continued home meds
# HLD - We continued home med
# Adjustment with depressed mood - We continued home med
# Right shoulder pain - We continued standing tylenol
.
Transitions of Care:
- Ms. ___ should have outpatient PFTs to characterize her 
obstructive pulmonary disorder.  We have contacted Dr. ___ 
office to see if she can be scheduled for PFTs and a session on 
teaching for inhaler and spacer use as well as peak expiratory 
flow measurements.  She will need an interpreter for this visit.
- The addition of a spacer to her inhaler should be considered.
- We entertained the diagnosis of new onset CHF on admission.  
We were not able to obtain a ___ before discharge, but one 
should be considered as an outpatient to evaluate her current 
ejection fraction, heart function, and valvular disease (mild AR 
and MR seen on previous ___. 
- Ms. ___ should have outpatient lab work follow up for her 
elevated Cr and eosinophilia.
- Ms. ___ should have outpatient follow up with referral for 
colonscopy for her history of small amounts of stool for the 
last few months.
 
Medications on Admission:
- ATENOLOL - 50 mg Tablet daily
- ATORVASTATIN [LIPITOR] - 80 mg daily
- ISOSORBIDE MONONITRATE [IMDUR] - 30 mg once a day with supper
- LOSARTAN - 100 mg Tablet daily
- ASPIRIN - 81 mg daily
- FLUTICASONE [FLOVENT HFA] - 110 mcg/Actuation Aerosol - take 2
puffs orally twice daily
- IPRATROPIUM-ALBUTEROL [COMBIVENT] - 18 mcg-103 mcg (90
mcg)/Actuation Aerosol - 2 puffs orally 4 times a day
- MIRTAZAPINE - 15 mg Tablet daily
- CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 600 + D(3)] - 600 mg-400
unit daily 
- DOCUSATE SODIUM [COLACE] - 100 mg Capsule twice a day
- MULTIVITAMIN WITH IRON [DAILY VITAMIN W/IRON] - 1 tablet daily
- ACETAMINOPHEN - 1000 mg Tablet every eight hours as needed
- NITROGLYCERIN - 0.4 mg Tablet, Sublingual as needed for chest 
pain
 
Discharge Medications:
1. atenolol 25 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
2. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
4. losartan 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
5. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation twice a day.  
7. Combivent ___ mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation four times a day.  
8. mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
9. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit 
Capsule Sig: One (1) Capsule PO once a day.  
10. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
11. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO every 
eight (8) hours as needed for pain.  
13. nitroglycerin 0.4 mg Tablet, Sublingual Sig: Three (3) 
Tablet, Sublingual Sublingual PRN (as needed) as needed for 
chest pain.  
14. prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily) 
for 3 days: Last dose on ___.
Disp:*6 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the medical service at ___ after having 
an acute onset of shortness of breath at home on the morning of 
___.  You recieved oxygen, steroids, antibiotics, nebulizer 
treatment, and lasix - a medication to remove fluid from your 
body.  You were found not to have a heart attack.  You also did 
not have a pneumonia so we stopped the antibiotics, but 
continued the steroids, nebulizer treatments and oxygen for an 
asthma exacerbation.  Eventually, your breathing improved and 
you were breathing well without any oxygen.  The nurses showed 
you how to use your inhaler properly at home and you were then 
discharged home.
.
Please make the following changes to your medications:
1. START prednisone 40mg once a day (last dose on ___
.
Keep all of your other medications the same.
 
Followup Instructions:
___